US04892966
108 g (1.1 mol) of potassium acetate and 11.4 g (0.05 mol) of benzyltriethylammonium chloride are suspended in 900 ml of acetonitrile, treated with 50 ml of acetic acid and heated to reflux temperature. Within 31/2 hours there are added dropwise thereto 150.5 g (1 mol) of methyl 4-chloroacetoacetate in 100 ml of acetonitrile and the mixture is subsequently held at reflux temperature for 4 hours. The reaction mixture is washed 3 times with 200 ml of 5% NaH2PO4 solution each time and the aqueous phases are back-extracted with 200 ml of CH2Cl2. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator. The crude product distils at 76°-85° C./0.6 mbar and gives 106.17 g (61%) of methyl 4-acetoxyacetoacetate.

reactant | potassium acetate | 1.1 mol, 108 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | methyl 4-chloroacetoacetate | 1 mol, 150.5 g | ClCC(CC(=O)OC)=O | C5H7ClO3
catalyst | benzyltriethylammonium chloride | 0.05 mol, 11.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 900 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl 4-acetoxyacetoacetate | 106.17 g, 61% | C(C)(=O)OCC(CC(=O)OC)=O | C7H10O5
